US06399641B1
9H-Xanthene-9-carboxylic acid [2-(2,2,2-trifluoro-ethyl)-2H-tetrazol-5-yl]-amide
The title compound, white solid, m.p. 209-210 and MS: (neg. ions): m/e=374.1 (M+−H) was prepared in accordance with the general method of example 1 from 5-amino-2-(2,2,2-trifluoroethyl)-2H-tetrazole and 9H-xanthene-9-carbonyl chloride.

reactant | 5-amino-2-(2,2,2-trifluoroethyl)-2H-tetrazole | NC=1N=NN(N1)CC(F)(F)F | C3H4F3N5
reactant | 9H-xanthene-9-carbonyl chloride | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)Cl | C14H9ClO2
product | 9H-Xanthene-9-carboxylic acid [2-(2,2,2-trifluoro-ethyl)-2H-tetrazol-5-yl]-amide | FC(CN1N=C(N=N1)NC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12)(F)F | C17H12F3N5O2
